* Pins: P1, P2, COM (common)

.subckt LED_Dual_Bidirectional P1 P2 COM

D1 P1 COM LED_model
D2 P2 COM LED_model

.model LED_model D (
+  IS=1e-20
+  N=1.8
+  RS=4
+  CJO=20p
+  VJ=2.0
+  EG=1.9
+  XTI=3
+  BV=5
+  IBV=10u
)

.ends LED_Dual_Bidirectional
